US05155212
1-(1 phenylcyclohexyl)-4 hydroxypiperidine was dissolved in 15 mL glacial acetic acid and 0.3 mL concentrated slufuric acid, and 1.9 mL Jones reagent (made from 26.72 g H2CrO4 and 23 mL H2SO4 diluted to 100 mL with water) was added dropwise. After stirring at room temperature for 20 minutes, 2 mL 2-propanol, Zn(Hg) (made from 1.5 g mossy zinc and 0.2 g mercuric chloride in 20 mL water and 0.25 mL concentrated hydrochloric acid at room temperature for 5 minutes), sodium citrate dihydrate (3.6 g) and 35 mL deionized water were added sequentially. After stirring the solution at room temperature for 30 minutes, the reaction was extracted with chloroform. The solvent was removed in vacuo. Distilled water was added and removed in vacuo. The residue was chromatographed on silica gel eluted with the appropriate mixture of methanol and chloroform to yield pure 1 (1 phenylcyclohexyl)-4-piperidone.

reactant | 1-(1 phenylcyclohexyl)-4 hydroxypiperidine | C1(=CC=CC=C1)C1(CCCCC1)N1CCC(CC1)O | C17H25NO
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
product | (1 phenylcyclohexyl)-4-piperidone | C1(=CC=CC=C1)C1(CCCCC1)N1CCC(CC1)=O | C17H23NO
